US07495103B2
7-Nitro-3,4-dihydro-2H-naphthalen-1-one oxime (274 mg, 1.33 mmol) was dissolved in methanol (10 mL) and the flask was flushed with N2 (g). 10% Pd—C (50 mg) was added and the reaction was stirred under H2 (1 atm) at room temperature overnight. The reaction was filtered and the filtrate was concentrated to yield 1,2,3,4-tetrahydro-naphthalene-1,7-diamine (207 mg, 96%). 1H NMR (400 MHz, DMSO-d6) δ 6.61-6.57 (m, 2H), 6.28 (dd, J=8.0, 2.4 Hz, 1H), 4.62 (s, 2H), 3.58 (m, 1H), 2.48-2.44 (m, 2H), 1.78-1.70 (m, 2H), 1.53-1.37 (m, 2H).

reactant | 7-Nitro-3,4-dihydro-2H-naphthalen-1-one oxime | 1.33 mmol, 274 mg | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=NO | C10H10N2O3
solvent | methanol | 10 mL | CO | CH4O
product | 1,2,3,4-tetrahydro-naphthalene-1,7-diamine | 207 mg, 96% | C1(CCCC2=CC=C(C=C12)N)N | C10H14N2
